US07423044B2
6-Isopropyl-2-(3-nitro-phenyl)-pyrimidin-4-ol
The title compound was prepared from 4-methyl-3-oxo-pentanoic acid ethyl ester and 3-nitro-benzamidine hydrochloride according to general procedure 1. 1H NMR (DMSO-d6, 400 MHz) δ 1.25 (d, J=6.9 Hz, 6H), 2.80-2.92 (m, 1H), 6.37 (s, 1H), 7.83 (t, J=8.0 Hz, 1H), 8.40 (dd, J=7.5, 2.3 Hz, 2H), 8.62 (d, J=7.5 Hz, 1H) 9.01 (s, 1H), 12.50 (br s, 1H); MS: m/z (ESI) 260 (M+H).

reactant | 4-methyl-3-oxo-pentanoic acid ethyl ester | C(C)OC(CC(C(C)C)=O)=O | C8H14O3
reactant | 3-nitro-benzamidine hydrochloride | Cl.[N+](=O)([O-])C=1C=C(C(=N)N)C=CC1
product | 6-Isopropyl-2-(3-nitro-phenyl)-pyrimidin-4-ol | C(C)(C)C1=CC(=NC(=N1)C1=CC(=CC=C1)[N+](=O)[O-])O | C13H13N3O3
